US06124281
(c) Ethyl 4-(4-chloro-2-aminobenzoyl)-1H-1,2,3-triazole-5-carboxylate
A suspension of PtO2 (541.6 mg) in ethanol (50 mL) was shaken under hydrogen (40 psi) in a PARR™ hydrogenator for 19 hours. A solution of ethyl 4-(4-chloro-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxylate (1.014 g, 3.124 mmol) in chloroform (10 mL)/ethanol (200 mL) was then added to the reaction mixture and shaking on the PARR™ hydrogenator at 51 psi was continued. After 3 hours the reaction mixture was filtered through a pad of CELITE™, washing with ethanol. The filtrate was concentrated under vacuum (0.3 torr) to afford 0.998 g (108%) of crude title compound as a bright yellow foam.

reactant | ethyl 4-(4-chloro-2-nitrobenzoyl)-1H-1,2,3-triazole-5-carboxylate | 3.124 mmol, 1.014 g | ClC1=CC(=C(C(=O)C=2N=NNC2C(=O)OCC)C=C1)[N+](=O)[O-] | C12H9ClN4O5
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | PtO2 | 541.6 mg | O=[Pt]=O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | Ethyl 4-(4-chloro-2-aminobenzoyl)-1H-1,2,3-triazole-5-carboxylate | 0.998 g, 108% | ClC1=CC(=C(C(=O)C=2N=NNC2C(=O)OCC)C=C1)N | C12H11ClN4O3
